US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (58 μL, 0.417 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (50 mg, 0.119 mmol) and 4-nitrophenyl chloroformate (25 mg, 125 mmol) in tetrahydrofuran (4 mL) at 0° C. After 15 min, 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride (52 mg, 0.179 mmol), triethylamine (58 μL, 0.417 mmol) and dichloromethane (3 mL) were added and the mixture allowed to warm to ambient temperature. After 5 h, the reaction was concentrated. Purification by reverse phase HPLC (C-18, 90% water/acetonitrile→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (38 mg). MS 591.2223 (M+1).

reactant | Triethylamine | 0.417 mmol, 58 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.119 mmol, 50 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)N | C15H15F5N4
reactant | 4-nitrophenyl chloroformate | 125 mmol, 25 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride | 0.179 mmol, 52 mg | [Cl-].[Cl-].O=C1N(C=2C(=[NH+]C=CC2)N1)C1CC[NH2+]CC1
reactant | triethylamine | 0.417 mmol, 58 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 38 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C27H27F5N8O2
